US03959413
16.4 g (0.1 mol) of 4-hydroxymethyl-1-phospha-2,6,7-trioxabicyclo[2,2,2]octane are dissolved in 150 ml of toluene by warming. 30.2 g (0.1 mol) of stearic acid chloride, followed by 10.1 g (0.1 mol) of triethylamine, are added dropwise at room temperature. After the slight evolution of heat has died away, the mixture is stirred for 10 hours under nitrogen at room temperature and the precipitated triethylamine hydrochloride is then filtered off. The filtrate is evaporated with exclusion of moisture, a yellowish oil remaining, which crystallises on being triturated with methanol. After filtering off under suction and drying, stearic acid 1-phospha-2,6,7-trioxabicyclo[2,2,2]oct-4-yl-methyl ester (Stabiliser No. 9), melting point 49°C, is obtained.

reactant | 4-hydroxymethyl-1-phospha-2,6,7-trioxabicyclo[2,2,2]octane | 0.1 mol, 16.4 g | OCC12COP(OC1)OC2 | C5H9O4P
reactant | stearic acid chloride | 0.1 mol, 30.2 g | C(CCCCCCCCCCCCCCCCC)(=O)Cl | C18H35ClO
reactant | triethylamine | 0.1 mol, 10.1 g | C(C)N(CC)CC | C6H15N
solvent | toluene | 150 ml | C1(=CC=CC=C1)C | C7H8
product | stearic acid 1-phospha-2,6,7-trioxabicyclo[2,2,2]oct-4-yl-methyl ester | P12OCC(CO1)(CO2)COC(CCCCCCCCCCCCCCCCC)=O | C23H43O5P
